US07482366B2
4-Bromo-6-ethyl-2-ethylsulfanyl-pyridin-3-ylamine (476 mg, 1.82 mmoles) was dissolved into EtOH (5 mL) and chilled to −10° C. under nitrogen. At −10° C. 48% wt. aq. HBF4 (1.0 mL) was added and the temperature was further lowered to −25° C. At −25° C. isoamyl nitrite (0.256 mL, 1.9 mmoles) was slowly added (over 1 min), and the temperature was allowed to warm to −5° C. The reaction was stirred at −5° C. for 30 min. After this period the reaction mix was chilled to −25° C. and an excess of 50% aqueous H3PO2 (5.0 mL) was added. The mix was then allowed to warm to ambient temperature and was stirred at this temperature for 1 hour (vigorous bubbling is observed). After this period the reaction was combined with 40 mL of diethyl ether followed (carefully) by saturated NaHCO3 (10 mL). The mix was then extracted with diethyl ether (2×20 mL) and the resultant ether layer was washed with brine. After drying over anhydrous MgSO4 the ethereal layer was evaporated in vacuo to yield crude product. The crude product was purified using flash silica chromatography (0-10% EtOAc/Hexane) to yield 4-bromo-2-ethylsulfanyl-6-ethylpyridine (340 mg, 76%) as a golden-yellow liquid. 1H-NMR (CDCl3): δ 7.09 (br d, J=1.3 Hz, 1H), 6.90 (br d, J=1.5 Hz, 1H), 3.0 (q, J=7.3 Hz, 2H), 2.73 (q, J=7.6 Hz, 2H), 1.39 (t, J=7.3 Hz, 3H), 1.27 (t, J=7.6 Hz, 3H).

reactant | 4-Bromo-6-ethyl-2-ethylsulfanyl-pyridin-3-ylamine | 1.82 mmoles, 476 mg | BrC1=C(C(=NC(=C1)CC)SCC)N | C9H13BrN2S
reactant | HBF4 | 1.0 mL | [H+].[B-](F)(F)(F)F
reactant | isoamyl nitrite | 1.9 mmoles, 0.256 mL | N(=O)OCCC(C)C | C5H11NO2
reactant | H3PO2 | 5.0 mL | O[PH2]=O | H3O2P
solvent | EtOH | 5 mL | CCO | C2H6O
product | 4-bromo-2-ethylsulfanyl-6-ethylpyridine | 340 mg, 76% | BrC1=CC(=NC(=C1)CC)SCC | C9H12BrNS
